US05629321
In a mixture of 150 ml of methanol and 50 ml of tetrahydrofuran, 24.1 g of 7-methoxycarbonyl-3,4-dihydro-(2H)-1-naphthalenone was dissolved and 5 g of sodium borohydride was added by portions with ice cooling. The mixture was stirred at 5° C. for an hour and successively the solvent was distilled off under reduced pressure. The concentrated residue was adjusted to pH 2 by adding a 2N aqueous hydrochloric acid solution and extracted with chloroform. The chloroform layer was dried with anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain crude intermediate 7-methoxycarbonyl-1,2,3,4-tetrahydro-1-naphthol. The crude intermediate was dissolved in 150 ml of benzene, 5 g of Amberlyst 15 was added, a Dean-Stark Trap was mounted, and the mixture was refluxed by heating for 2 hours. After cooling, the reaction mixture was filtered and the solvent was distilled off under reduced pressure. The concentrated residue was purified by silica gel column chromatography using a mixture, ethyl acetate: n-hexane=1:10, as a developer. 7-methoxycarbonyl-3,4-dihydronaphthalene thus obtained was 19.2 g.

reactant | 7-methoxycarbonyl-3,4-dihydro-(2H)-1-naphthalenone | 24.1 g | COC(=O)C1=CC=C2CCCC(C2=C1)=O | C12H12O3
reactant | sodium borohydride | 5 g | [BH4-].[Na+]
solvent | methanol | 150 ml | CO | CH4O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 7-methoxycarbonyl-1,2,3,4-tetrahydro-1-naphthol | COC(=O)C1=CC=C2CCCC(C2=C1)O | C12H14O3
